US04933355
Ethyl 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetate
Following a procedure similar to that described in Example 30, the desired compound was prepared from 1 g of 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetic acid, 2 g of ethanol and 10 ml of a 4N dioxane solution of hydrogen chloride. The resulting product was a yellow powder having the following physical properties.

reactant | 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetic acid | 1 g | N(C1=CC=CC=C1)C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O | C15H11N3O3S3
reactant | ethanol | 2 g | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | Ethyl 5-(2-anilinothiazol-4-ylmethylene)rhodanine-3-acetate | N(C1=CC=CC=C1)C=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)OCC)=O | C17H15N3O3S3
